US07919498B2
Prepared according to Procedure B using 8-methyl-2-(2-(trifluoromethyl)phenyl)quinoline-3-carbaldehyde (1.6541 g, 5.25 mmol) and solid NaBH (0.2977 g, 7.87 mmol, 1.5 eq) in THF (26 mL) followed by Procedure C using the crude (8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methanol and SOCl2 (1.9 mL, 26.23 mmol, 5 eq) in CHCl3 (26 mL). After purification, 3-(chloromethyl)-8-methyl-2-(2-(trifluoromethyl)phenyl)quinoline was obtained as yellow syrup. 1H NMR (DMSO-d6) δ ppm 8.60 (1 H, s), 7.92 (2 H, dd, J=11.5, 8.0 Hz), 7.72-7.85 (2 H, m), 7.67 (2 H, dd, J=14.3, 7.2 Hz), 7.54-7.62 (1 H, m), 4.71 (2 H, dd, J=89.8, 11.9 Hz), 2.62 (3 H, s). Mass Spectrum (ESI) m/e=336.1 (M+1).

reactant | 8-methyl-2-(2-(trifluoromethyl)phenyl)quinoline-3-carbaldehyde | 5.25 mmol, 1.6541 g | CC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)C=O | C18H12F3NO
reactant | (8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methanol | CC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)CO | C18H14F3NO
reactant | SOCl2 | 26.23 mmol, 1.9 mL, 5 eq | O=S(Cl)Cl | Cl2OS
solvent | THF | 26 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | 26 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(chloromethyl)-8-methyl-2-(2-(trifluoromethyl)phenyl)quinoline | ClCC=1C(=NC2=C(C=CC=C2C1)C)C1=C(C=CC=C1)C(F)(F)F | C18H13ClF3N
